US09303028B2
In a 250 mL three neck round bottom flask, 7-chloroquinazolin-2-ol (19 g, 105.55 mmol) was suspended in freshly distilled POCl3 (190 mL) at rt. The resulting suspension was heated to 110° C. for 4 h. On completion of reaction, the reaction mixture was cooled to rt and concentrated under reduced pressure. The residue obtained was diluted with ethyl acetate (200 mL) and cold water (200 mL). The organic layer was separated and the aqueous phase was re-extracted with ethyl acetate (500 mL×2). The combined EtOAc extract was washed with brine and concentrated under reduced pressure. The residue (pale brown) obtained was purified by silica gel (60-120 mesh) column chromatography and gradient elution with 12-20% ethyl acetate-hexanes gave 2,7-dichloroquinazoline as a pale yellow solid. Yield: 7 g (33.5%). LCMS (ESI, m/z): 199 (M+1)+.

reactant | 7-chloroquinazolin-2-ol | 105.55 mmol, 19 g | ClC1=CC=C2C=NC(=NC2=C1)O | C8H5ClN2O
reactant | POCl3 | 190 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | 2,7-dichloroquinazoline | ClC1=NC2=CC(=CC=C2C=N1)Cl | C8H4Cl2N2
